US08048878B2
Synthesis of methyl (2R,6S)-6-(3,4,5-trifluorophenyl)piperidine-2-carboxylate
To a solution of (R)-6-oxopiperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (13.0 g) in THF (140 mL), 3,4,5-trifluorophenylmagnesium bromide (prepared from 1-bromo-3,4,5-trifluorobenzene (11.7 g) and magnesium (1.48 g) by the method described in Org. Synth., 2001, 79, 176) was added in a nitrogen atmosphere at −78° C. over 30 minutes. The reaction solution was stirred at −78° C. to −10° C. for two hours, and then quenched with a saturated ammonium chloride solution at −10° C. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. A solution of 4 N hydrochloric acid in ethyl acetate (150 mL) was added to a solution of the residue in ethyl acetate (150 mL) at room temperature, and the reaction solution was stirred at room temperature for nine hours. The reaction solution was concentrated under reduced pressure, and the residue was made basic with a saturated sodium bicarbonate solution. Then, chloroform was added to the residue, and the mixture was stirred at room temperature for two hours. The organic layer was separated, dried over magnesium sulfate, and then concentrated under reduced pressure. 10% palladium-carbon (700 mg) was added to a solution of the residue in methanol (200 mL), and the reaction solution was stirred in a hydrogen atmosphere at room temperature for nine hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 5.47 g of the title compound. The property value of the compound is as follows.

reactant | (R)-6-oxopiperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 13.0 g | COC(=O)[C@@H]1N(C(CCC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | 1-bromo-3,4,5-trifluorobenzene | 11.7 g | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
reactant | magnesium | 1.48 g | [Mg] | Mg
solvent | THF | 140 mL | C1CCOC1 | C4H8O
solvent | 3,4,5-trifluorophenylmagnesium bromide | FC=1C=C(C=C(C1F)F)[Mg]Br
product | methyl (2R,6S)-6-(3,4,5-trifluorophenyl)piperidine-2-carboxylate | 5.47 g | FC=1C=C(C=C(C1F)F)[C@@H]1CCC[C@@H](N1)C(=O)OC | C13H14F3NO2
